US05677306
The procedure is carried out as in Example 1 but starting with 1.4 g of 1-(4-chloro-1-oxo-2-indanyl)imidazole-2-carboxamide, a total of 70 ml of methanol and 21 ml of a 12N aqueous hydrochloric acid solution. 0.53 g of 9-chloro-5H, 10H-imidazo [1,2-a]indeno[1,2-e]pyrazin-4-one is thus obtained which decomposes without melting above 300° C. [NMR spectrum: (200 MHz; DMSO-d6 ; δ in ppm): 4.06 (s, 2H: --CH2-- in position 10); 7.40 (dd, J=8 and 1 Hz 1H: --H8); 7.49 (t, J=8 Hz, 1H: --H7); 7.61 and 8.08 (2d, J=1 Hz, 1H each: --H of imidazole); 7.85 (d, J=8 Hz, 1H: --H6); 2.47 (unresolved complex, 1H, --CONH--)].

reactant | 1-(4-chloro-1-oxo-2-indanyl)imidazole-2-carboxamide | 1.4 g | ClC1=C2CC(C(C2=CC=C1)=O)N1C(=NC=C1)C(=O)N | C13H10ClN3O2
reactant | hydrochloric acid | 12N | Cl | ClH
solvent | methanol | 70 ml | CO | CH4O
product | 9-chloro-5H, 10H-imidazo [1,2-a]indeno[1,2-e]pyrazin-4-one | 0.53 g | ClC=1C=2CC3=C(NC(C=4N3C=CN4)=O)C2C=CC1 | C13H8ClN3O
